US05498630
The 2-chloro-4-bromo-6-trimethylsilylbenzoic acid was diluted with thionyl chloride (3 mL, 41.1 mmol) and warmed. When gas evolution ceased, the solution was concentrated and stripped from toluene (2×) under vacuum to remove the excess thionyl chloride. The remaining dark oil was dissolved in toluene (12 mL), then the compound from example k (2.2 g, 19.5 mmol) was added and the mixture was heated at 100° C. until the reaction was complete by GLC. The resulting mixture was cooled to 0° C., and Et3N (1.32 g, 13.0 mmol) was added in a single portion, followed by the dropwise addition of methanol (0.62 g, 19.4 mmol) in toluene (1 mL). The reaction was warmed to RT and monitored to completion by GLC, then was diluted with ether and extracted with sat aq NaHCO3, dried (MgSO4), concentrated, and the residue dissolved in hexanes. The hexane solution was cooled to -78° C. and filtered to remove insoluble impurities, then the filtrate was concentrated and purified by RC with 1:49 EtOAc/hexanes to give 820 mg of N-ethyl-N-(1-methoxy-2,2-dimethylpropyl) 2-chloro-4-bromo-6-(trimethylsilyl)benzamide as a yellow oil.

reactant | 2-chloro-4-bromo-6-trimethylsilylbenzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)Br)[Si](C)(C)C | C10H12BrClO2Si
reactant | thionyl chloride | 41.1 mmol, 3 mL | S(=O)(Cl)Cl | Cl2OS
reactant | Et3N | 13.0 mmol, 1.32 g | CCN(CC)CC | C6H15N
reactant | methanol | 19.4 mmol, 0.62 g | CO | CH4O
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-ethyl-N-(1-methoxy-2,2-dimethylpropyl) 2-chloro-4-bromo-6-(trimethylsilyl)benzamide | 820 mg | C(C)N(C(C1=C(C=C(C=C1[Si](C)(C)C)Br)Cl)=O)C(C(C)(C)C)OC | C18H29BrClNO2Si
